US07776869B2
Step 3: 4-Methoxy-3-nitrophenol
4-Methoxy-3-nitrophenylacetate (2.46 g, 11.7 mmol) was dissolved in anhydrous ethanol (80 ml) and sodium ethoxide (1.19 g, 17.5 mmol) was added. The reaction was stirred at room temperature for 0.5 h. The dark red solution was acidified with 2M HCl and concentrated under reduced pressure. The residue was taken up into water and extracted with dichloromethane. The combined organics were washed with 2M HCl and brine, then dried over sodium sulfate. Evaporation of the solvent under reduced pressure gave the title compound as a yellow solid.

reactant | 4-Methoxy-3-nitrophenylacetate | 11.7 mmol, 2.46 g | COC1=C(C=C(C=C1)CC(=O)[O-])[N+](=O)[O-]
reactant | sodium ethoxide | 17.5 mmol, 1.19 g | [O-]CC.[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 4-Methoxy-3-nitrophenol | COC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO4
